US07288541B2
To a solution of 43 mg (0.079 mmol) of (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (2S)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate & (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (2R)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate in 2 mL of chloroform was added 42 mg (0.1 mmol) of Dess-Martin periodinane, and the mixture was stirred at room temperature for 1.25 h. An additional portion of 21 mg (0.05 mmol) of Dess-Martin periodinane was added, and the reaction mixture was stirred for another 0.5 h. The mixture was diluted with ethyl acetate and a saturated aqueous sodium thiosulfate solution. The combined layers were mixed vigorously and then a saturated aqueous sodium bicarbonate solution was added. The layers were separated and the organic phase was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography eluting with a methanol:chloroform solution (1:9). The sample was further purified by HPLC using a Waters Symmetry C18 19 mm×150 mm column with 7 μm packing eluted with a five minute gradient of 30%–70% acetonitrile in water. The mobile phase contained a 0.1% trifluoroacetic acid modifier. This purification yielded 4 mg (9%) of (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl 2oxo-3-[(2-pyridinylsulfonyl)amino]propylcarbamate. ES-LCMS m/z 542 (M+H) retention time=3.59 min. HRMS C22H25Cl2N5O5S m/z 542.1032 (M+H)Cal; 542.1026 (M+H)Obs.

reactant | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (2S)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 0.079 mmol, 43 mg | O[C@@H](CNC(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)=O)CNS(=O)(=O)C2=NC=CC=C2 | C22H27Cl2N5O5S
reactant | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (2R)-2-hydroxy-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | O[C@H](CNC(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)=O)CNS(=O)(=O)C2=NC=CC=C2 | C22H27Cl2N5O5S
reactant | Dess-Martin periodinane | 0.1 mmol, 42 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 0.05 mmol, 21 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl 2oxo-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 4 mg, 9% | O=C(CNC(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)=O)CNS(=O)(=O)C2=NC=CC=C2 | C22H25Cl2N5O5S
